US06573293B2
2,4-Dimethyl-5-(2-oxo-5-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (2-pyrrolidin-1-ylethyl)amide
5-Phenyl-1,3-dihydroindol-2-one (0.04 g, 0.2 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-ylethyl)amide (0.04 g) to give the title compound as a yellow-orange solid.

reactant | 5-Phenyl-1,3-dihydroindol-2-one | 0.2 mmol, 0.04 g | C1(=CC=CC=C1)C=1C=C2CC(NC2=CC1)=O | C14H11NO
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-ylethyl)amide | 0.04 g | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C)C=O)C | C14H21N3O2
product | 2,4-Dimethyl-5-(2-oxo-5-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (2-pyrrolidin-1-ylethyl)amide | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC=C(C=C12)C1=CC=CC=C1)=O)C | C28H30N4O2
